US07981903B2
2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide
In a manner analogous to a procedure outlined previously, 2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide was prepared from 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrochloride, 1-[(dimethylamino)acetyl]-N5,N5-dimethyl-2,3-dihydro-1H-indole-5,6-diamine, and methyl amine to afford the title compound (0.20 g, 44% over 3 steps). ESIMS (M+H)+=546. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 6 H) 2.58 (s, 6H) 2.81 (d, J=3.61 Hz, 3 H) 3.02-3.14 (m, 2 H) 3.18 (s, 211) 4.16 (t, J=8.23 Hz, 2 H) 6.27 (br. s., 1 H) 6.87-6.99 (m, 2 H) 7.06 (s, 1 H) 7.32-7.45 (m, 1 H) 7.66 (s, 1 H) 8.38 (d, J=8.23 Hz, 1 H) 8.56 (br. s., 1 H) 8.77 (s, 1H) 10.17 (s, 1 H) 11.30 (br. s., 1H).

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrochloride | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[(dimethylamino)acetyl]-N5,N5-dimethyl-2,3-dihydro-1H-indole-5,6-diamine | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)N(C)C | C14H22N4O
reactant | methyl amine | CN | CH5N
product | 2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.20 g, 44% | CN(C=1C=C2CCN(C2=CC1NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)C(CN(C)C)=O)C | C28H32FN9O2
